US08012976B2
4-(3-Oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (59 mg, 0.16 mmol) and dimethylamine (5 mL) were added and the mixture was stirred at room temperature for 2 h. Then 20 mg of sodium borohydride was added and stirred for another 2 h. The resulting mixture was evaporated under reduced pressure and purified by prep-HPLC to give 8-(4-((dimethylamino)methyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (20 mg, yield 32%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.18 (s, 6H), 4.28-4.30 (d, J=8 Hz, 1H), 4.72-4.74 (d, J=8 Hz, 1H), 7.06-7.08 (m, 2H), 7.13-7.20 (m, 6H), 7.23-7.25 (m, 2H), 7.54-7.65 (m, 2H). LC-MS (ESI) m/z: 397 (M+1)+.

reactant | 4-(3-Oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 0.16 mmol, 59 mg | O=C1NN=C2C=3C(=CC=CC13)NC(C2C2=CC=CC=C2)C2=CC=C(C=O)C=C2 | C23H17N3O2
reactant | dimethylamine | 5 mL | CNC | C2H7N
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
product | 8-(4-((dimethylamino)methyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 20 mg, yield 32% | CN(C)CC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=CC=C1 | C25H24N4O
